US06809199B2
Diethyl azodicarboxylate (50 μL, 0.32 mmol) was added dropwise to a solution of 1-(2,6dichlorophenyl)-5-(2-chlorophenyl)-7-hydroxy-3,4-dihydro-2(1H)-quinazolinone (30 mg, 0.07 mmol) INTERMEDIATE 49), triphenylphosphine (95 mg, 0.36 mmol) and 1-(2-hydroxyethyl)piperidine (55 mg, 0.43 mmol) in 1 mL tetrahydrofuran at 65° C. under an argon atmosphere. After 1 h the solution was cooled to RT and partitioned between saturated NaHCO3 (5 mL) and EtOAc (15 mL). The organic phase was separated, dried over Na2SO4, filtered and concentrated. The residue was purified by thin layer chromatography using EtOAc followed by CHCl3/MeOH/NH4OH (87/12/1) as the eluent to give 1-(2,6-dichlorophenyl)-5-(2-chlorophenyl)-7-[2-(1-piperidinyl)ethoxy]-3,4-dihydro-2(1H)-quinazolinone. 1H NMR(CDCl3, 500 MHz): δ 1.44 (m, 2H), 1.62 (m, 4H), 2.48 (m, 4H), 2.72 (m, 2H), 4.00 (t, 2H, J=6.0 Hz), 4.18 (d, 1H, J=14.0 Hz), 4.36 (d, 1H, J-14.0 Hz), 5.22 (s, 1H), 5.76 (d, 1H, J=1.8 Hz), 6.45 (d, 1H, J=2.0 Hz), 7.28-7.39 (m, 4H), 7.45-7.53 (m, 3H). MS(ES) 530 (M+H); LC 1: 2.28 min.

reactant | Diethyl azodicarboxylate | 0.32 mmol, 50 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-(2,6dichlorophenyl)-5-(2-chlorophenyl)-7-hydroxy-3,4-dihydro-2(1H)-quinazolinone | 0.07 mmol, 30 mg | ClC1=C(C(=CC=C1)Cl)N1C(NCC2=C(C=C(C=C12)O)C1=C(C=CC=C1)Cl)=O | C20H13Cl3N2O2
reactant | triphenylphosphine | 0.36 mmol, 95 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxyethyl)piperidine | 0.43 mmol, 55 mg | OCCN1CCCCC1 | C7H15NO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(2,6-dichlorophenyl)-5-(2-chlorophenyl)-7-[2-(1-piperidinyl)ethoxy]-3,4-dihydro-2(1H)-quinazolinone | ClC1=C(C(=CC=C1)Cl)N1C(NCC2=C(C=C(C=C12)OCCN1CCCCC1)C1=C(C=CC=C1)Cl)=O | C27H26Cl3N3O2
